US07435837B2
Treatment of 2,6-difluorobromobenzene (8.9 g, 46.1 mmol) with 2-methoxybenzeneboronic acid (10.51 g, 69.2 mmol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (1.81 g, 2.3 mmol), and potassium carbonate (15.9 g, 115.3 mmol) generally according to the procedure described for Intermediate 37 provided 4.6 g (45%) of 2′,6′-difluoro-1,1′-biphenyl-2-yl methyl ether. To a solution of 2′,6′-difluoro-1,1′-biphenyl-2-yl methyl ether (4.5 g, 20.4 mmol) in dichloromethane (100 mL) cooled to −78° C. was added boron tribromide (5.11 g, 1.0 M in dichloromethane) and the reaction mixture was allowed to stir for 30 min. The reaction mixture was allowed to warn to room temperature and was quenched by the addition of ice (150 mL). The organic layer was separated and the aqueous layer was extracted with dichloromethane (500 mL). The combined organic layers were washed with water (400 mL), saturated aqueous sodium chloride (100 mL), dried (magnesium sulfate), and the solvent removed in vacuo to provide a crude oil. Purification by flash column chromatography (silica, hexanes:ethyl acetate 95:5) provided 3.95 g (94%) of 2′,6′-difluoro-1,1′-biphenyl-2-ol as a colorless oil. Anal. calcd. for C12H8F2O: C, 69.9; H, 3.91. Found: C, 68.51; H, 4.06.

reactant | 2,6-difluorobromobenzene | 46.1 mmol, 8.9 g | FC1=C(C(=CC=C1)F)Br | C6H3BrF2
reactant | 2-methoxybenzeneboronic acid | 69.2 mmol, 10.51 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 115.3 mmol, 15.9 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 2.3 mmol, 1.81 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | 2′,6′-difluoro-1,1′-biphenyl-2-yl methyl ether | 4.6 g, 45% | COC=1C(=CC=CC1)C1=C(C=CC=C1F)F | C13H10F2O
